US05359098
(±)-6-[6-(3-Hydroxypiperidinyl)hexoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by a method similar to Example 3 from 6-hydroxyflavone, 1-bromo-6-chlorohexane, and 3-hydroxypiperidine: mp 197°-202° C.

reactant | 6-hydroxyflavone | OC=1C=C2C(C=C(OC2=CC1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | 3-hydroxypiperidine | OC1CNCCC1 | C5H11NO
product | (±)-6-[6-(3-Hydroxypiperidinyl)hexoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride | Cl.OC1CN(CCC1)CCCCCCOC=1C=CC2=C(C(C=C(O2)C2=CC=CC=C2)=O)C1 | InChI=1S/C26H31NO4.ClH/c28-21-11-8-15-27(19-21)14-6-1-2-7-16-30-22-12-13-25-23(17-22)24(29)18-26(31-25)20-9-4-3-5-10-20;/h3-5,9-10,12-13,17-18,21,28H,1-2,6-8,11,14-16,19H2;1H
